US08383553B2
Synthesis of ethyl 5-tributylstannylthiophene-2-carboxylate (III)
A 40 ml of 2.5 M solution of n-butyllithium in hexane was transferred under argon dropwise to a solution of 14 ml of diisopropylamine in 200 ml of anhydrous THF at −20° C. over 10 minutes. The solution was stirred at −20° C. for 3 hours and at 0° C. for fifteen minutes to form a lithium diisopropylamide (LDA) solution. The LDA solution was then cooled to −78° C. and a solution of 15.65 g ethyl thiophene-2-carboxylate in 25 ml THF was added dropwise. After the solution thus obtained was stirred for 1 hour at −78° C., 30 ml of tributyltin chloride in 25 ml of THF was added dropwise. The reaction was then stirred at −78° C. for another hour and at room temperature overnight. After 200 ml of water was slowly added, the organic layer was collected, dried with Na2SO4, and concentrated and then vacuum distilled at about 650 mTorr. The fraction between 162-165° C. was collected to give 26.71 g (60.0%) of the desired product as a light yellow liquid, whose chemical structure was confirmed by NMR spectroscopy.

reactant | LDA | C(C)(C)[N-]C(C)C.[Li+]
reactant | ethyl thiophene-2-carboxylate | 15.65 g | S1C(=CC=C1)C(=O)OCC | C7H8O2S
reactant | tributyltin chloride | 30 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | water | 200 ml | O | H2O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | ethyl 5-tributylstannylthiophene-2-carboxylate | 26.71 g, 60.0% | C(CCC)[Sn](C1=CC=C(S1)C(=O)OCC)(CCCC)CCCC | InChI=1S/C7H7O2S.3C4H9.Sn/c1-2-9-7(8)6-4-3-5-10-6;3*1-3-4-2;/h3-4H,2H2,1H3;3*1,3-4H2,2H3;
